US08535974B2
Synthesis of N-(3-(1,3-dioxolan-2-yl)phenyl)dibenzo[b,d]thiophen-4-amine
A clean and dry 1000 ml round bottom flask equipped with a reflux condenser, magnetic stir bar, and thermometer with adapter was prepared and purged with nitrogen. A solution of 4-bromodibenzo[b,d]thiophene (RS-1-170, 10.7 g, 0.0407 mol) in anhydrous toluene (500.0 ml) was then prepared and transferred to the reaction flask via cannula. 3-aminobenzaldehyde ethylene acetal (8.1 g, 0.0488 mol) was added by syringe. The reaction solution was purged with a strong nitrogen flow for 20 minutes. Sodium tert-butoxide (5.86 g, 0.0610 mol) and Pd2dba3 (1.10 g, 0.0012 mol) were then added manually, followed by the addition of tri-tert-butylphosphine (0.65 g, 0.0032 mol) in toluene (˜10 ml) via syringe. The vessel was heated to reflux for approximately 2 hours. The reaction was then cooled to room temperature and filtered through a Celite and silica gel pad. Solvent was removed by rotary evaporation. The crude material was dissolved in a 2:1 hexane/ethyl acetate solution purified by flash column chromatography using a gradient elution system of ethyl acetate/hexane. This provided pure product confirmed by NMR.

reactant | 4-bromodibenzo[b,d]thiophene | 0.0407 mol, 10.7 g | BrC1=CC=CC2=C1SC1=C2C=CC=C1 | C12H7BrS
reactant | 3-aminobenzaldehyde ethylene acetal | 0.0488 mol, 8.1 g | C1COC(C2=CC(=CC=C2)N)O1 | C9H11NO2
reactant | Sodium tert-butoxide | 0.0610 mol, 5.86 g | CC(C)([O-])C.[Na+]
reactant | tri-tert-butylphosphine | 0.0032 mol, 0.65 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 500.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | ˜10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.0012 mol, 1.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(1,3-dioxolan-2-yl)phenyl)dibenzo[b,d]thiophen-4-amine | O1C(OCC1)C=1C=C(C=CC1)NC1=CC=CC2=C1SC1=C2C=CC=C1 | C21H17NO2S
